### PR TITLE
feat: Reed's omega, delta, and chi conjecture

### PR DESCRIPTION
**Pull request by edwag**
Addresses https://github.com/google-deepmind/formal-conjectures/issues/159

### CODE REVIEW

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+
+*Reference* (https://mathoverflow.net/questions/37923)
+-/
+
+namespace ReedOmegaDeltaChi
+
+open Classical
+
+noncomputable
+def maxDegree {V : Type} (G : SimpleGraph V) : ℕ∞ :=
```
Comment (edwag) [inline FormalConjectures/Other/ReedOmegaDeltaChi.lean]: I'm not sure if this is already defined somewhere in Mathlib, or if perhaps it would make sense to put this into ForMathlib? Mathlib does define `SimpleGraph.maxDegree`, but as far as I can see this only exists for finite graphs.

Comment (andrew-d-king) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: I think it would also be fine to state the conjecture for finite graphs, if it's easier.

**Comment by edwag** [comment]
@mo271 could I please get a review on this? 🙏

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Reed's omega, delta, and chi conjecture
+
+*Reference:* (http://www.openproblemgarden.org/op/reeds_omega_delta_and_chi_conjecture)
+
+*Reference* (https://mathoverflow.net/questions/37923)
```
Comment (mo271) [inline FormalConjectures/Other/ReedOmegaDeltaChi.lean]:
```suggestion
# Reed's omega, delta, and chi conjecture

*References*:
- [B. Reed,  ω Δ and χ, J. Graph Theory 27 (1998) 177-212.](https://onlinelibrary.wiley.com/doi/10.1002/(SICI)1097-0118(199804)27:4%3C177::AID-JGT1%3E3.0.CO;2-K) 
-
[openproblemgarden(http://www.openproblemgarden.org/op/reeds_omega_delta_and_chi_conjecture)
- [mathoverflow/37923](https://mathoverflow.net/questions/37923) asked by user [Andrew D. King](https://mathoverflow.net/users/4580/andrew-d-king)
```

I think it would be best to move the file to the `Paper` directory, for instance `FormalConjectures/Paper/OmegaDeltaChi.lean`

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+open Classical
+
+noncomputable
+def maxDegree {V : Type} (G : SimpleGraph V) : ℕ∞ :=
+  if h : ∀ v, Finite (G.neighborSet v) then
+    have : ∀ v, Fintype (G.neighborSet v) :=
+      fun v => @Fintype.ofFinite _ (h v)
+    ⨆ v, G.degree v
+  else
+    ⊤
```
Comment (mo271) [inline FormalConjectures/Other/ReedOmegaDeltaChi.lean]: Is this givin the junk value of "0" for a graph that has Finite degree for each node, but infinitely many nodes, and nodes of arbitrarily high degree? Should it be \top in that case as well. 
Perhaps more something like
```
noncomputable
def maxDegree {V : Type} (G : SimpleGraph V) : ℕ∞ :=
  ⨆ v, if h : (G.neighborSet v).Finite then
    have : Fintype (G.neighborSet v) := by exact h.fintype
    (G.degree v : ℕ∞)
  else
    ⊤
```
and then make sure `maxCliqueSize` is not depending on that junk value?

**Review by mo271 — COMMENTED** [review]
Very nice! Just some minor comments!

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+conjecture states that $$\chi(G) \leq \lceil \frac{1}{2}(\omega(G) + \Delta(G) + 1) \rceil.$$
+-/
+@[category research open, AMS 5]
+theorem reed_omega_delta_chi_conjecture :
+  ∀ {V : Type} (G : SimpleGraph V),
+    let χ := G.chromaticNumber
+    let ω := maxCliqueSize G
+    let Δ := maxDegree G
+  /- (d+1)/2 = ⌈d/2⌉ -/
+  χ ≤ (ω + Δ + 1).map (fun d => (d + 1) / 2) := by
```
Comment (YaelDillies) [inline FormalConjectures/Other/ReedOmegaDeltaChi.lean]: Here is my suggestion, for finite graphs:
```suggestion
    (∀ {V : Type} [Fintype V] [DecidableEq V] (G : SimpleGraph V) [DecidableRel G.Adj],
      let χ := G.chromaticNumber
      let ω := G.cliqueNum
      let Δ := G.maxDegree
      /- (d+1)/2 = ⌈d/2⌉ -/
      2 * χ ≤ ω + Δ + 2 ↔ answer(sorry) := by
```

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: Yes, let's state it for finite graphs for now

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 3 above)
Comment (edwag) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: How would I actually check if this gives `0`? I had the case of unbounded degree in mind when writing this, and I thought that the supremum would be \top in this case, since the return type is N_\infty. Maybe it would be good to include some kind of unit test here. Like define a graph with finite but unbounded degrees and prove that the `maxDegree` is `\top`.

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 4 above)
Comment (edwag) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: 1. I thought that the convention in this repo is to use the `answer(sorry)` style if the conjecture was phrased as a question. I'm not actually familiar with this conjecture, I'm just going by the page at http://www.openproblemgarden.org/op/reeds_omega_delta_and_chi_conjecture, where the conjecture is phrased as a statement. Happy to switch to `answer(sorry)` if this conjecture is usually phrased as a question but would just like to confirm that we want this change!
2. I think we should add this finite version as a separate theorem statement, since we do also want to state the conjecture for infinite graphs.

Comment (YaelDillies) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: 1. Sorry, you might be right. I am an expert mathlib reviewer, but not an expert conjectures one 😅
2. But then shouldn't the infinite version be stated in terms of cardinals? Right now, you have an in-between statement.

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 3 above)
Comment (YaelDillies) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: I believe the current definition is correct, but it's certainly a bit weird compared to what it could be. I would expect something like:
```suggestion
def edegree (G : SimpleGraph V) (v : V) : ℕ∞ := (G.neighborSet v).encard

def emaxDegree {V : Type*} (G : SimpleGraph V) : ℕ∞ := ⨆ v, G.edegree v
```

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 4 above)
Comment (edwag) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: As I understand it, this conjecture is only for the case where the clique number and max degree are both finite, so I think we can state everything using just $N_\infty$? I'd like to defer to @andrew-d-king on this one, since I think he has a better idea than I do of the precise statement of the conjecture.

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 3 above)
Comment (edwag) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: This looks much nicer, thanks!

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+
+def emaxDegree {V : Type*} (G : SimpleGraph V) : ℕ∞ := ⨆ v, G.edegree v
+
+/--
+For a nonempty graph, `G.cliqueNum` is 0 iff the clique size is unbounded. For the purposes of
+stating the conjecture, we actually want the max clique size to be `∞` in this case.
+-/
+noncomputable
+def maxCliqueSize {V : Type} (G : SimpleGraph V) : ℕ∞ :=
+  if Nonempty V ∧ G.cliqueNum = 0 then ⊤ else G.cliqueNum
```
Comment (YaelDillies) [inline FormalConjectures/Other/ReedOmegaDeltaChi.lean]:
```suggestion
def ecliqueNum {V : Type} (G : SimpleGraph V) : ℕ∞ := ⨆ (s : Finset V) (_ : G.IsClique s), #s
```
if you add `open scoped Finset` earlier in the file

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 4 above)
Comment (YaelDillies) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: At least, could you fix the indentation and avoid this weird `ENat.map`?
```suggestion
    (∀ {V : Type} (G : SimpleGraph V),
      let χ := G.chromaticNumber
      let ω := G.ecliqueNum
      let Δ := G.emaxDegree
      2 * χ ≤ ω + Δ + 2 ↔ answer(sorry) := by
```

**Comment by mo271** [comment]
@edwag Seems like there is not much left to do here? 
Would be great to get this conjecture merged!

**Comment by edwag** [comment]
> @edwag Seems like there is not much left to do here? Would be great to get this conjecture merged!

@mo271 I should be able to finish this off in the next week or so - have been very busy for the last few weeks but will have some more free time opening up shortly!

File: FormalConjectures/Other/ReedOmegaDeltaChi.lean (hunk 1 above)
Comment (edwag) [reply FormalConjectures/Other/ReedOmegaDeltaChi.lean]: I've kept the statement for general graphs, but have also added a second statement for finite graphs, following @YaelDillies suggested implementation.

**Comment by edwag** [comment]
I've pushed changes which I think resolve all the outstanding feedback.

File: FormalConjectures/Paper/ReedOmegaDeltaChi.lean [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+noncomputable
+def edegree {V : Type*} (G : SimpleGraph V) (v : V) : ℕ∞ := (G.neighborSet v).encard
+
+noncomputable
+def emaxDegree {V : Type*} (G : SimpleGraph V) : ℕ∞ := ⨆ v, G.edegree v
+
+noncomputable
+def ecliqueNum {V : Type} (G : SimpleGraph V) : ℕ∞ := ⨆ (s : Finset V) (_ : G.IsClique s), #s
+
+end SimpleGraph
```
Comment (YaelDillies) [inline FormalConjectures/Paper/ReedOmegaDeltaChi.lean]: Can you put these in `ForMathlib`?

File: FormalConjectures/Paper/ReedOmegaDeltaChi.lean [hunk 7]
```diff
@@ -0,0 +1,65 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Reed's omega, delta, and chi conjecture
+
+*References*:
+- [B. Reed,  ω Δ and χ, J. Graph Theory 27 (1998) 177-212.](https://onlinelibrary.wiley.com/doi/10.1002/(SICI)1097-0118(199804)27:4%3C177::AID-JGT1%3E3.0.CO;2-K)
+-
+[openproblemgarden(http://www.openproblemgarden.org/op/reeds_omega_delta_and_chi_conjecture)
```
Comment (mo271) [inline FormalConjectures/Paper/ReedOmegaDeltaChi.lean]:
```suggestion
- [openproblemgarden(http://www.openproblemgarden.org/op/reeds_omega_delta_and_chi_conjecture)
```

File: FormalConjectures/Paper/ReedOmegaDeltaChi.lean [hunk 8]
```diff
@@ -0,0 +1,65 @@
...
+@[category research open, AMS 5]
+theorem reed_omega_delta_chi_conjecture :
+  ∀ {V : Type} (G : SimpleGraph V),
+    let χ := G.chromaticNumber
+    let ω := G.ecliqueNum
+    let Δ := G.emaxDegree
+    2 * χ ≤ ω + Δ + 2 := by
+  sorry
+
+@[category research open, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Paper/ReedOmegaDeltaChi.lean:52]:
```suggestion

/--
For a finite graph $G$, we define $\Delta(G)$ to be the maximum degree, $\omega(G)$ to be the 
size of the largest clique subgraph, and $\chi(G)$ to be the chromatic number. Reed's omega, 
delta, and chi conjecture states that $$\chi(G) \leq \lceil \frac{1}{2}(\omega(G) + \Delta(G) + 1) \rceil.$$
-/
@[category research open, AMS 5]
```

File: FormalConjectures/Paper/ReedOmegaDeltaChi.lean (hunk 7 above)
Comment (edwag) [reply FormalConjectures/Paper/ReedOmegaDeltaChi.lean]: I'm not sure how to edit this suggested change in the UI, but I think we're also missing a closing `]` here. I'll make this change locally and push.

File: FormalConjectures/Paper/ReedOmegaDeltaChi.lean (hunk 6 above)
Comment (edwag) [reply FormalConjectures/Paper/ReedOmegaDeltaChi.lean]: I've moved these into `Combinatorics/SimpleGraph/GraphConjectures/Definitions`
